US08247401B2
Step B: tert-butyl 3-(methylsulfonyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate
tert-Butyl 3-(methylsulfonyl)benzoate (1.0 g, 3.9 mmol), bis(pinacolato) diboron (0.99 g, 3.9 mmol), methoxy(cyclooctadiene)iridium(I) dimer (0.26 g, 0.39 mmol), 4,4′-di-tert-butyl-2,2′-bipyridine (0.21 g, 0.78 mmol) and sodium periodate (1.25 g, 5.85 mmol) were mixed together in the dry box under nitrogen atmosphere. Anhydrous THF was added and the mixture was heated to 80° C. After 6 h, the mixture was cooled to ambient temperature and aqueous Cu(II) SO4 was added. The mixture was extracted with ethyl acetate (3×). The combined organic extracts were washed with Cu(II) SO4 (2×), brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% dichloromethane→80% dichloromethane/methanol) gave the title compound (1.0 g).

reactant | tert-Butyl 3-(methylsulfonyl)benzoate | 3.9 mmol, 1.0 g | CS(=O)(=O)C=1C=C(C(=O)OC(C)(C)C)C=CC1 | C12H16O4S
reactant | bis(pinacolato) diboron | 3.9 mmol, 0.99 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | 4,4′-di-tert-butyl-2,2′-bipyridine | 0.78 mmol, 0.21 g | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
reactant | sodium periodate | 5.85 mmol, 1.25 g | I(=O)(=O)(=O)[O-].[Na+]
catalyst | methoxy(cyclooctadiene)iridium(I) dimer | 0.39 mmol, 0.26 g | CO.CO.C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Ir].[Ir]
solvent | THF | C1CCOC1 | C4H8O
product | tert-butyl 3-(methylsulfonyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.0 g | CS(=O)(=O)C=1C=C(C(=O)OC(C)(C)C)C=C(C1)B1OC(C(O1)(C)C)(C)C | C18H27BO6S
